US04861774
To a solution of 11-acetyl-8-carbamoyloxymethyl-4-formyl-6-hydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-9-yl acetate (80 mg) in acetone (1 ml) were added potassium carbonate (55 mg) and benzyl bromide (47 μl), and the mixture was stirred at 50° C. for 90 minutes. The mixture was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and methanol (20:1, v/v) to afford 11-acetyl-6-benzyloxy-8-carbamoyloxymethyl-4-formyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-9-yl acetate (90 mg).

reactant | 11-acetyl-8-carbamoyloxymethyl-4-formyl-6-hydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-9-yl acetate | 80 mg | C(C)(=O)OC12C(C3=C(C=C(C=C3N(CC3N(C13)C(C)=O)O2)C=O)O)COC(N)=O | C18H19N3O8
reactant | potassium carbonate | 55 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 47 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
product | 11-acetyl-6-benzyloxy-8-carbamoyloxymethyl-4-formyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-9-yl acetate | 90 mg | C(C)(=O)OC12C(C3=C(C=C(C=C3N(CC3N(C13)C(C)=O)O2)C=O)OCC2=CC=CC=C2)COC(N)=O | C25H25N3O8
